US06559173B1
Under Ar(g), a solution of anhydrous acetonitrile (1.6 mL) in 35 mL anhydrous THF is cooled to −78° C. in a dry ice-acetone bath and then slowly treated with 12 mL of a 2.5 M n-butyl lithium in hexanes. The reaction mixture is maintained at −78° C. for an additional 45 min. and then slowly treated with a solution of 5 gms. of 3,5-dimethyl-benzoic acid ethyl ester in 5 mL of anhydrous THF. The resulting solution is then stirred overnight at room temperature. Subsequently, the reaction mixture is treated with 10% NaOH(aq) to dissolve solids, and then is extracted with ethyl acetate. The aqueous layer is acidified (pH 6) with HCl(aq) affording a white precipitate which subsequently is filtered. The organic layer is concentrated in vacuo and the residue is triturated with isopropanol resulting in the formation of additional white precipitate. The combined precipitates provide the desired 3-(3,5-dimethyl-phenyl)-3-oxo-propionitrile in the amount of 2.0175 gms.

reactant | acetonitrile | 1.6 mL | C(C)#N | C2H3N
reactant | n-butyl lithium | 2.5 M | C(CCC)[Li]
reactant | 3,5-dimethyl-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC(=C1)C)C)=O | C11H14O2
reactant | NaOH | [OH-].[Na+]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(3,5-dimethyl-phenyl)-3-oxo-propionitrile | CC=1C=C(C=C(C1)C)C(CC#N)=O | C11H11NO
